US08871753B2
Step A: tert-Butyl {3-[(3-nitrobenzyl)amino]phenyl}carbamate
To a solution of 1-(bromomethyl)-3-nitro-benzene (4.50 g, 0.021 mol) and tert-butyl (3-aminophenyl)carbamate (4.34 g, 0.021 mol) in N,N-dimethylformamide (50 mL) was added potassium carbonate (4.32 g, 0.03 mol). The resultant mixture was stirred at room temperature overnight and the reaction was complete. The reaction mixture was filtered first to remove K2CO3, and then quenched with water. EtOAc was added and the layers were separated. The aqueous layer was extracted with EtOAc twice. The combined organic layers were washed with water and then dried (Na2SO4), filtered and concentrated to give the desired product as a light brown gel (6.94 g, 97%). LCMS for C18H22N3O4 (M+H)+: m/z=344.1.

reactant | 1-(bromomethyl)-3-nitro-benzene | 0.021 mol, 4.50 g | BrCC1=CC(=CC=C1)[N+](=O)[O-] | C7H6BrNO2
reactant | tert-butyl (3-aminophenyl)carbamate | 0.021 mol, 4.34 g | NC=1C=C(C=CC1)NC(OC(C)(C)C)=O | C11H16N2O2
reactant | potassium carbonate | 0.03 mol, 4.32 g | C([O-])([O-])=O.[K+].[K+]
solvent | N,N-dimethylformamide | 50 mL | CN(C=O)C | C3H7NO
product | tert-Butyl {3-[(3-nitrobenzyl)amino]phenyl}carbamate | 6.94 g, 97% | [N+](=O)([O-])C=1C=C(CNC=2C=C(C=CC2)NC(OC(C)(C)C)=O)C=CC1 | C18H21N3O4
